US06706751B2
In analogy to example 16.13, 5-[6-Fluoro-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-5-yl]-pent-4-yn-1-ol and 2-(ethylamino)ethanol instead of 2-(methylamino)ethanol were converted to yield 2-(Ethyl-{5-[6-fluoro-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-5-yl]-pent-4-ynyl}-amino)-ethanol as a light yellow oil, MS: 445 (MH+).

reactant | 5-[6-Fluoro-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-5-yl]-pent-4-yn-1-ol | FC1=C(C=C2CCN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C#CCCCO | C20H20FNO3S
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
product | 2-(Ethyl-{5-[6-fluoro-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-5-yl]-pent-4-ynyl}-amino)-ethanol | C(C)N(CCO)CCCC#CC=1C=C2CCN(C2=CC1F)S(=O)(=O)C1=CC=C(C=C1)C | C24H29FN2O3S
